US03962249
1-[3-(m-Methylphenyl)propyl]-4-(2-furoyl)piperazine hydrochloride
The compound was obtained by following the same process as in Example 1 from a mixture of 1-[3-(m-methylphenyl)propyl]piperazine [b.p. 137° - 145°C (2 mmHg), dihydrochloride, m.p. 237°C], 2-furoyl chloride and benzene.

reactant | 1-[3-(m-methylphenyl)propyl]piperazine | CC=1C=C(C=CC1)CCCN1CCNCC1 | C14H22N2
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-[3-(m-Methylphenyl)propyl]-4-(2-furoyl)piperazine hydrochloride | Cl.CC=1C=C(C=CC1)CCCN1CCN(CC1)C(=O)C=1OC=CC1 | InChI=1S/C19H24N2O2.ClH/c1-16-5-2-6-17(15-16)7-3-9-20-10-12-21(13-11-20)19(22)18-8-4-14-23-18;/h2,4-6,8,14-15H,3,7,9-13H2,1H3;1H
